US08492549B2
3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethylpiperidine
Prepared from [3-allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]methanol using the procedure described for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine.

reactant | [3-allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidin-3-yl]methanol | C(C=C)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CO | C18H25NO3
reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethyl-3-methylpiperidine | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(C)COC | C17H25NO3
product | 3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-methoxymethylpiperidine | C(C=C)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)COC | C19H27NO3
